US06114390
b) 4-[[(Phenylmethyl)methylamino]methyl]benzenemethanamine
To a suspension of 1.9 g (0.05 Mol) of lithium aluminium hydride in 70 ml of anhydrous tetrahydrofuran was added dropwise, at ambient temperature, a solution of 12.1 g (0.051 Mol) of 4-cyano-N-methyl-N-(phenylmethyl)benzenemethanamine in 30 ml of dry tetrahydrofuran and the mixture was then heated to 60° C. for 3 hours and refluxed for 2 hours. A further 0.5 g of lithium aluminium hydride were added and the mixture was refluxed for another 3 hours. After working up in the usual way and purification by column chromatography (Baker; 0.03-0.06 mm; dichloromethane/methanol/cyclohexane/conc. aqueous ammonia=68/15/15/2 (v/v/v/v)) 10.2 g (83% of theory) of a colourless oil were obtained.

reactant | lithium aluminium hydride | 0.05 Mol, 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-cyano-N-methyl-N-(phenylmethyl)benzenemethanamine | 0.051 Mol, 12.1 g | C(#N)C1=CC=C(C=C1)CN(CC1=CC=CC=C1)C | C16H16N2
reactant | lithium aluminium hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[[(Phenylmethyl)methylamino]methyl]benzenemethanamine | C1(=CC=CC=C1)CN(C)CC1=CC=C(C=C1)CN | C16H20N2
